US07531482B2
Preparation of 4-[2-(5-Chlorothieno[2,3-d]pyrimidin-4-ylamino)ethyl]-2-methoxyphenol
A solution of 4,5-dichlorothieno[2,3-d]pyrimidine (2.0 g, 9.8 mmol), 4-(2-aminoethyl)-2-methoxyphenol (1.8 g, 10.7 mmol) and triethylamine (1.2 g, 11.8 mmol) in DMF (15 mL) was stirred overnight. The solution was diluted with H2O and the product collected by filtration yielding an off white powder, 2.5 g, 7.4 mmol, 76 percent yield.

reactant | 4,5-dichlorothieno[2,3-d]pyrimidine | 9.8 mmol, 2.0 g | ClC=1C2=C(N=CN1)SC=C2Cl | C6H2Cl2N2S
reactant | 4-(2-aminoethyl)-2-methoxyphenol | 10.7 mmol, 1.8 g | NCCC1=CC(=C(C=C1)O)OC | C9H13NO2
reactant | triethylamine | 11.8 mmol, 1.2 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 4-[2-(5-Chlorothieno[2,3-d]pyrimidin-4-ylamino)ethyl]-2-methoxyphenol | 76 percent yield | ClC1=CSC=2N=CN=C(C21)NCCC2=CC(=C(C=C2)O)OC | C15H14ClN3O2S
